US07790756B2
4-(2-Chloropyridin-4-yloxy)-2-fluoro-3-methylbenzenamine (1.0 g, 3.3 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (1 g, 4.8 mmol), Na2CO3 (0.84 g, 6.6 mmol) and Pd(PPh3)4 (0.25 g, 0.2 mmol) were combined in DME (75 mL) and water (25 mL). The mixture was sparged with nitrogen for 15 min and was heated to reflux overnight. The reaction mixture was extracted with EtOAc (3×100 mL) and the combined organics were washed with brine, concentrated in vacuo and purified by silica gel chromatography to give 2-fluoro-3-methyl-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)aniline (0.74 g, 75% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.27 (d, J=6.0 Hz, 1H), 8.18 (s, 1H), 7.90 (s, 1H), 7.07 (s, 1H), 6.63 (m, 2H), 6.45 (dd, J=5.6, 2.4 Hz, 1H), 5.06 (s, 2H), 3.82 (s, 3H), 1.95 (s, 3H); MS (ESI) m/z: 299.2 [M+H]+.

reactant | 4-(2-Chloropyridin-4-yloxy)-2-fluoro-3-methylbenzenamine | 3.3 mmol, 1.0 g | ClC1=NC=CC(=C1)OC1=C(C(=C(C=C1)N)F)C | C12H10ClFN2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 4.8 mmol, 1 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 6.6 mmol, 0.84 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 75 mL | COCCOC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.2 mmol, 0.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-3-methyl-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)aniline | 0.74 g, 75% yield | FC1=C(N)C=CC(=C1C)OC1=CC(=NC=C1)C=1C=NN(C1)C | C16H15FN4O
